US05180735
To a solution of 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-chloromethyl-1,4-cyclohexanediol (418 mg) in dichloromethane (5 ml) was added dropwise acryloylisocyanate (300 mg). The mixture was stirred for 30 minutes at room temperatures. To the reaction mixture was added water, which was subjected to extraction with ethyl acetate. The extract solution was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous saline solution, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by means of a silica gel column chromatography (carrier 20 g, developing solvent: hexane-ethyl acetate=4:1) to afford 4-O-(acryloylcarbamoyl)-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-chloromethyl-1,4-cyclohexanediol (200 mg, yield 38%) as colorless crystals.

reactant | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-chloromethyl-1,4-cyclohexanediol | 418 mg | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)CCl | C16H27ClO4
reactant | acryloylisocyanate | 300 mg | C(C=C)(=O)N=C=O | C4H3NO2
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-O-(acryloylcarbamoyl)-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-chloromethyl-1,4-cyclohexanediol | 200 mg, yield 38% | C(C=C)(=O)NC(=O)OC1C(C(C(CC1)(O)CCl)C1(C(CC=C(C)C)O1)C)OC | C20H30ClNO6
